US03984546
1,2,3,4-Tetrahydro-8,10-dimethoxy-3-(2-piperidinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one.
In the same way as described in Example 5, 0.02 m of 1,2,3,4-tetrahydro-8,10-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one was alkylated with N-(2-chloroethyl)-piperidine to give, after crystallization fromm MeOH, 3.0 g of product; mp 190°-224°C.

reactant | 1,2,3,4-tetrahydro-8,10-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | COC1=CC2=C(C(=C1)OC)C1=C(CNCC1)C(O2)=O | C14H15NO4
reactant | N-(2-chloroethyl)-piperidine | ClCCN1CCCCC1 | C7H14ClN
product | 1,2,3,4-Tetrahydro-8,10-dimethoxy-3-(2-piperidinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | COC1=CC2=C(C(=C1)OC)C1=C(CN(CC1)CCN1CCCCC1)C(O2)=O | C21H28N2O4
